US07714126B2
A mixture of 5-phenyl-2-(2,2,2-trifluoro-ethyl)-2H-pyrazole-3-carboxylic acid ethyl ester (360 mg, 1.21 mmol) and 1N aqueous sodium hydroxide solution (3.6 mL, 3.6 mmol) in methanol (10 mL) was stirred at room temperature overnight. The reaction mixture was acidified to pH˜2 with 1N aqueous hydrochloric acid and concentrated to give 5-phenyl-2-(2,2,2-trifluoro-ethyl)-2H-pyrazole-3-carboxylic acid as an off-white solid, which was directly used in the next step reaction without further purification. LCMS calcd for C12H9F3N2O (m/e) 270, obsd 271 (M+H).

reactant | 5-phenyl-2-(2,2,2-trifluoro-ethyl)-2H-pyrazole-3-carboxylic acid ethyl ester | 1.21 mmol, 360 mg | C(C)OC(=O)C=1N(N=C(C1)C1=CC=CC=C1)CC(F)(F)F | C14H13F3N2O2
reactant | sodium hydroxide | 3.6 mmol, 1N, 3.6 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | 5-phenyl-2-(2,2,2-trifluoro-ethyl)-2H-pyrazole-3-carboxylic acid | C1(=CC=CC=C1)C=1C=C(N(N1)CC(F)(F)F)C(=O)O | C12H9F3N2O2
